US07687502B2
[6-(1-Methyl-1H-tetrazol-5-ylsulfanyl)-pyrido[3,2-d]-pyrimidin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine
The compound of Example 53 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 5-mercapto-1-methyl-1H-tetrazole, thiazolo[5,4-b]pyridin-2-yl-amine and 4,6-dichloro-pyrido[3,2-d]pyrimidine.

reactant | 5-mercapto-1-methyl-1H-tetrazole | SC1=NN=NN1C | C2H4N4S
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
product | [6-(1-Methyl-1H-tetrazol-5-ylsulfanyl)-pyrido[3,2-d]-pyrimidin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine | CN1N=NN=C1SC=1C=CC=2N=CN=C(C2N1)NC=1SC2=NC=CC=C2N1 | C15H10N10S2
